US04515980
To a suspension of 24.44 g (0.177 mole) of potassium carbonate in 119 ml of toluene and 238 ml of water, stirred at 20°-40° C., was added 28.61 g (0.1176 mole) of 2-(2-methoxyphenylamino)benzoic acid, and phosgene was bubbled through the mixture for a period of 3.5 hours. The reaction was allowed to stand overnight with stirring, and the solid material was collected by filtration. The latter was dissolved in ethyl acetate and added to the toluene layer separated from the filtrate. The solution was washed twice with 200 ml 1N potassium hydroxide and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to yield 7 g of N-(2-methoxyphenyl)isatoic anhydride.

reactant | potassium carbonate | 0.177 mole, 24.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-methoxyphenylamino)benzoic acid | 0.1176 mole, 28.61 g | COC1=C(C=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 119 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 238 ml | O | H2O
product | N-(2-methoxyphenyl)isatoic anhydride | 7 g | COC1=C(C=CC=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO4
